US07049310B2
b) (E)-N-Methyl-3-(7-oxo-5,6,7,8-tetrahydro-1,8-naphthyridin-3-yl)-N-(1,2,7-trimethyl-1H-indol-3-ylmethyl)-acrylamide
A mixture of N-methyl-N-(1,2,7-trimethyl-1H-indol-3-ylmethyl)acrylamide (256 mg, 1 mmole) and 6-bromo-3,4-dihydro-1H-1,8-naphthyridin-2-one (227 mg, 1 mmole) in propionitrile (20 mL) was treated with DIEA (0.3 mL), Pd(OAc)2 (29 mg, 0.13 mmole), and tri-o-tolylphosphine (50 mg, 0.16 mmole). The reaction was heated at reflux under argon for 10 h, then was cooled to RT and filtered through supercel. The filtrate was concentrated and the residue was purified by flash chromatography on silica gel to afford the title compound (100 mg, 25%) as an off-white solid: MS (ES) m/e 403.2 (M+H)+. Anal. Calcd for C24H26N4O2.2.75 H2O: C, 63.77; H, 7.02; N, 12.39. Found: C, 63.81; H, 7.25; N, 11.90.

reactant | N-methyl-N-(1,2,7-trimethyl-1H-indol-3-ylmethyl)acrylamide | 1 mmole, 256 mg | CN(C(C=C)=O)CC1=C(N(C2=C(C=CC=C12)C)C)C | C16H20N2O
reactant | 6-bromo-3,4-dihydro-1H-1,8-naphthyridin-2-one | 1 mmole, 227 mg | BrC=1C=C2CCC(NC2=NC1)=O | C8H7BrN2O
reactant | DIEA | 0.3 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | tri-o-tolylphosphine | 0.16 mmole, 50 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
solvent | propionitrile | 20 mL | C(CC)#N | C3H5N
catalyst | Pd(OAc)2 | 0.13 mmole, 29 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | (E)-N-Methyl-3-(7-oxo-5,6,7,8-tetrahydro-1,8-naphthyridin-3-yl)-N-(1,2,7-trimethyl-1H-indol-3-ylmethyl)-acrylamide | 100 mg, 25% | CN(C(\C=C\C=1C=NC=2NC(CCC2C1)=O)=O)CC1=C(N(C2=C(C=CC=C12)C)C)C | C24H26N4O2
